US08071584B2
Ethyl 5-bromo-3-(tetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxylate
TMSOTf (3.38 mL, 18.7 mmol) was added dropwise to a solution of tetrahydro-4H-thiopyran-4-one (2.17 g, 18.7 mmol) in DCM (100 mL) at 0° C. (bath temp) under nitrogen. A solution of ethyl 5-bromo-1H-indole-7-carboxylate (5 g, 18.7 mmol) in DCM (30 mL) was then added and the reaction was stirred for 30 min. Triethylsilane (4.47 mL, 28.1 mmol) was added and the reaction was allowed to warm to room temperature overnight. The reaction mixture was washed with saturated aqueous Na2CO3 (1×100 mL, and the organic layer was dried (Na2SO4) and concentrated under reduced pressure. The residue was washed with MeOH, giving 4.92 g (72%) of the title compound.

reactant | TMSOTf | 18.7 mmol, 3.38 mL | [Si](C)(C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | tetrahydro-4H-thiopyran-4-one | 18.7 mmol, 2.17 g | S1CCC(CC1)=O | C5H8OS
reactant | ethyl 5-bromo-1H-indole-7-carboxylate | 18.7 mmol, 5 g | BrC=1C=C2C=CNC2=C(C1)C(=O)OCC | C11H10BrNO2
reactant | Triethylsilane | 28.1 mmol, 4.47 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 5-bromo-3-(tetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxylate | 4.92 g, 72% | BrC=1C=C2C(=CNC2=C(C1)C(=O)OCC)C1CCSCC1 | C16H18BrNO2S
